US06218404B1
Preparation of m-Fluorobenzyltriphenylphosphonium bromide
To a solution of triphenylphosphine (45.24 g, 0.12 mol) in 200 mL of ether was added 3-fluorobenzyl bromide (22.7 g, 0.12 mol). The resulting solution was allowed to stir at rt overnight. The white solid was collected by filtration and dried to give 58.0 g (85%) of the product as a white solid. mp 290-292° C. 1H NMR (CHCl3) 5.516 (d, J=14.7 Hz, 2 H), 6.725 (d, J=9.6 Hz, 1 H), 6.893 (m, 2 H), 7.084 (m, 2 H), 7.622-7.762 (m, 15 H).

reactant | triphenylphosphine | 0.12 mol, 45.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-fluorobenzyl bromide | 0.12 mol, 22.7 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
solvent | ether | 200 mL | CCOCC | C4H10O
product | m-Fluorobenzyltriphenylphosphonium bromide | 58.0 g, 85% | [Br-].FC=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1 | InChI=1S/C25H21FP.BrH/c26-22-12-10-11-21(19-22)20-27(23-13-4-1-5-14-23,24-15-6-2-7-16-24)25-17-8-3-9-18-25;/h1-19H,20H2;1H/q+1;/p-1
